US04608079
Potassium hydroxide (5.60 g, 85%, 0.087 mol) in water (5 mL) is added to a stirred suspension of diethyl furo[2,3-b]pyridine-5,6-dicarboxylate (9.3 g, 0.035 mol) in absolute ethanol (100 mL). The reaction mixture is heated at 60° C. for one hour, then cooled and anhydrous acetone added. The precipitate is filtered off, dried, suspended in dry acetone and treated with hydrogen chloride to adjust to a pH of 2. Crystallization of the isolated solids from an ethyl acetate-acetone mixture affords furo[2,3-b]pyridine-5,6-dicarboxylic acid mp 189°-192° C.

reactant | Potassium hydroxide | 0.087 mol, 5.60 g | [OH-].[K+]
reactant | diethyl furo[2,3-b]pyridine-5,6-dicarboxylate | 0.035 mol, 9.3 g | O1C=CC=2C1=NC(=C(C2)C(=O)OCC)C(=O)OCC | C13H13NO5
reactant | acetone | CC(=O)C | C3H6O
solvent | water | 5 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | furo[2,3-b]pyridine-5,6-dicarboxylic acid | O1C=CC=2C1=NC(=C(C2)C(=O)O)C(=O)O | C9H5NO5
